* INA143
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA143
* Date: 24JUN2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS116
*
* Model Version: 1.0
*
*****************************************************************************
* 
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
*
* THIS MODEL IS APPLICABLE FOR INA143 & INA2143
*
* BEGIN FEATURES
* CLOSED LOOP GAIN
* SLEW RATE
* INPUT VOLTAGE NOISE
* WITH 1/F EFFECTS
* CMRR VS FREQ
* PSRR+ VS FREQ
* PSRR- VS FREQ
* INPUT VOLTAGE RANGE
* VOS
* GAIN ERROR
* CLOAD RESPONSE
* SETTLING TIME 0.1%
* IQ
* END FEATURES
* BEGIN MODEL INA143
* PINOUT ORDER +IN -IN +V -V OUT SEN REF
* PINOUT ORDER  3   2   7  4  6   5   1
*****************************************************************************
.SUBCKT INA143 3 2 7 4 6 5 1
Q26 8 9 10 QON
Q27 11 9 12 QOP
Q28 4 13 14 QOP
Q29 7 15 16 QON
I4 8 15 0.5E-3
I5 13 11 0.5E-3
R34 17 16 20
R35 14 17 20
C6 9 18 20E-12
R36 19 9 1E3
G1 9 19 20 0 -1E-3
G2 21 19 22 23 -1.83E-5
R37 19 21 1E10
C7 20 24 15.5E-12
R38 20 21 100
E1 25 19 20 19 1
D2 25 21 DD
R39 19 24 1.5E3
Q30 23 26 27 QIN
Q31 22 28 29 QIN
Q32 30 31 32 QNN
R40 33 32 17.4E3
V6 31 34 1.2613
R41 23 35 60E3
R42 22 35 60E3
V7 8 36 -1.3
R45 30 27 5500
R46 30 29 5500
R47 6 17 75
D1 36 35 DD
D3 21 25 DD
D4 37 8 DD
D5 11 38 DD
V8 37 21 1.7
V9 21 38 1.1
E6 39 0 8 0 1
E7 40 0 11 0 1
E8 41 0 42 0 1
R48 39 43 1E6
R49 40 44 1E6
R50 41 45 1E6
R51 0 43 10
R52 0 44 10
R53 0 45 10
E11 46 47 45 0 0.85
R54 48 42 1E3
R55 42 49 1E3
C10 39 43 5E-9
C11 40 44 1E-9
C12 41 45 5E-12
E12 50 46 44 0 0.75
E13 51 50 43 0 1.5
R60 50 51 1E9
R61 46 50 1E9
R62 47 46 1E9
E22 48 0 52 0 1
E23 49 0 51 0 1
E24 53 54 55 56 2.5E-2
I7 0 56 100E-6
D6 56 0 DVN
I8 0 55 100E-6
D7 55 0 DVN
R63 26 51 2E3
R64 53 28 2E3
Q33 26 26 57 QNN
Q34 57 57 28 QNN
Q35 58 58 26 QNN
Q36 28 28 58 QNN
E25 11 0 4 0 1
E26 8 0 7 0 1
I9 7 4 0.17E-3
R65 4 7 100E3
E27 19 0 8 11 0.001
C13 52 0 3E-12
C14 51 0 3E-12
C15 51 52 5E-12
V10 54 52 103E-6
R66 12 15 20
R67 13 10 20
Q37 34 34 33 QNN
I15 11 31 286E-6
R68 1 47 99990
R69 52 5 99990
R70 2 52 10E3
R71 47 3 10E3
V12 33 11 -1.3
R72 19 18 500
D8 4 17 DD
D9 17 7 DD
.MODEL DD D
.MODEL DVN D KF=1.6E-13
.MODEL QNN NPN
.MODEL QIN NPN BF=270 KF=4E-17
.MODEL QON NPN BF=60 RC=70
.MODEL QOP PNP BF=60 RC=95
.ENDS
* END MODEL INA143
